US07371773B2
The hydroxyl group of 4-hydroxy-3-nitrobenzaldehyde (500 mg) was protected by use of 2-methoxyethoxymethyl chloride (374 mg) in accordance with (production process 1), to thereby produce an MEM form (605 mg, yield: 70%). The resultant MEM form (255 mg) and 3,4-dimethoxybenzyl cyanide (177 mg) were subjected to condensation in accordance with process B of (production process 2), to thereby produce (Z)-2-(3,4-dimethoxy-phenyl)-3-[4-(2-methoxy-ethoxymethoxy)-3-nitro-phenyl]-acrylonitrile (153 mg, yield: 40%). The thus-produced (Z)-2-(3,4-dimethoxy-phenyl)-3-[4-(2-methoxy-ethoxymethoxy)-3-nitro-phenyl]-acrylonitrile (140 mg) was subjected to deprotection in accordance with (production process 3), to thereby produce the target product (72 mg, yield: 60%).

reactant | 4-hydroxy-3-nitrobenzaldehyde | 500 mg | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | 2-methoxyethoxymethyl chloride | 374 mg | COCCOCCl | C4H9ClO2
reactant | 3,4-dimethoxybenzyl cyanide | 177 mg | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2-(3,4-dimethoxy-phenyl)-3-[4-(2-methoxy-ethoxymethoxy)-3-nitro-phenyl]-acrylonitrile | 153 mg, yield: 40% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=CC(=C(C=C1)OCOCCOC)[N+](=O)[O-] | C21H22N2O7
